US05308857
A suspension of 2-(diaminomethyleneamino)-4-[5-{3-(benzoyl)thioureido}methylfuran-2-yl]thiazole (3.20 g) and sodium hydroxide (0.32 g) in methanol (30 ml) was stirred at 60° C. for one hour. The reaction mixture was cooled in an ice bath and the resulting precipitate was collected by filtration and washed with methanol to afford 2-(diaminomethyleneamino)-4-(5-thioureidomethylfuran-2-yl)thiazole (1.73 g).

reactant | 2-(diaminomethyleneamino)-4-[5-{3-(benzoyl)thioureido}methylfuran-2-yl]thiazole | 3.20 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=S)NC(C1=CC=CC=C1)=O | C17H16N6O2S2
reactant | sodium hydroxide | 0.32 g | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-(diaminomethyleneamino)-4-(5-thioureidomethylfuran-2-yl)thiazole | 1.73 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC(=S)N | C10H12N6OS2
